US04084951
Preparation of di-n-butyl 2-(di-n-butylmethylsily)-ethyl phosphate.
Dibutylphosphorochloridate (3.74 g) was added to a solution of 2-(di-n-butyl methylsilyl)-ethanol (3 g) and pyridine (1.04 g) in carbon tetrachloride (10 ml). The mixture was left overnight, filtered, and the filtrate passed through an alumina column (20 g), eluting with a further 3 × 20 ml of carbon tetrachloride. Removal of the solvent under vacuum left the phosphate as a colourless oil (2.7 g).

reactant | Dibutylphosphorochloridate | 3.74 g | C(CCC)OP(OCCCC)(=O)Cl | C8H18ClO3P
reactant | 2-(di-n-butyl methylsilyl)-ethanol | 3 g | C(CCC)[Si](CCO)(C)CCCC | C11H26OSi
reactant | pyridine | 1.04 g | N1=CC=CC=C1 | C5H5N
solvent | carbon tetrachloride | 10 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | di-n-butyl 2-(di-n-butylmethylsily)-ethyl phosphate | P(=O)(OCCCC)(OCCCC)OCC[Si](C)(CCCC)CCCC | C19H43O4PSi
